US07544703B2
2-(2-Aminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide monohydrochloride (Compound No. 3-1)
A solution of 4 N hydrochloric acid in 1,4-dioxane (5.0 mL) was added to a solution of 2-(2-tert-butoxycarbonylaminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (Compound No. 2-1, 420 mg, 0.90 mmol) in 1,4-dioxane (5.0 mL) at room temperature, and the mixture was stirred for 12 hours. Ethanol (6.0 mL) was added to the reaction mixture, and the precipitated solid was filtered off. The solid was dried under reduced pressure at 60° C. to give 320 mg of the target compound as a colorless crystal. (Yield 88%)

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | 2-(2-tert-butoxycarbonylaminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C25H28N4O3S
reactant | Ethanol | 6.0 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 2-(2-Aminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide monohydrochloride | 320 mg, Yield 88% | Cl.NC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | InChI=1S/C20H20N4OS.ClH/c1-13-8-14(2)10-16(9-13)24-19(25)17-4-3-6-23-20(17)26-12-15-5-7-22-18(21)11-15;/h3-11H,12H2,1-2H3,(H2,21,22)(H,24,25);1H
